US06586592B2
Step 3: Preparation of 1-[3-nitro-4-(phenylsulfonyl) Phenyl]piperazine
A solution of 4-fluoro-2-nitro-1-(phenylsulfonyl) benzene (1.0 g, 3.6 mmol), piperazine (0.37 g, 4.3 mmol), and potassium carbonate (0.79 g, 5.7 mmol) is stirred in 35 mL of acetonitrile overnight at reflux. The mixture is cooled to rt and 35 mL of water and CH2Cl2 are added. The layers are separated and the aqueous layer extracted with CH2Cl2 (3×35 mL). The combined organics are dried over MgSO4, filtered, and concentrated. Purification via flash column chromatography (15% MeOH/CH2Cl2) gives 1.1 g (92%) of title compound as a solid, mp 180-182° C.

reactant | 4-fluoro-2-nitro-1-(phenylsulfonyl) benzene | 3.6 mmol, 1.0 g | FC1=CC(=C(C=C1)S(=O)(=O)C1=CC=CC=C1)[N+](=O)[O-] | C12H8FNO4S
reactant | piperazine | 4.3 mmol, 0.37 g | N1CCNCC1 | C4H10N2
reactant | potassium carbonate | 5.7 mmol, 0.79 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 35 mL | O | H2O
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-[3-nitro-4-(phenylsulfonyl) Phenyl]piperazine | 1.1 g, 92% | [N+](=O)([O-])C=1C=C(C=CC1S(=O)(=O)C1=CC=CC=C1)N1CCNCC1 | C16H17N3O4S
